US08629277B2
N-hydroxyoctanimidamide
To a solution of 1.66 g (23.9 mmol) of hydroxylamine hydrochloride in 11 mL of isopropyl alcohol, 2.95 g (35.1 mmol) of sodium bicarbonate was added. The resulting mixture was stirred at 25° C. to 30° C. for 10-15 min. 2.0 g (15.97 mmol) of octanenitrile was added and stirred at 80° C. to 85° C. for 3-4 h. After completion of the reaction, the reaction mixture was cooled to 25° C. to 30° C., filtered and washed with 2 mL of isopropyl alcohol. The filtrate was collected and distilled to obtain a crude residue. The residue was chased with 5 mL of toluene, to yield the title compound.

reactant | hydroxylamine hydrochloride | 23.9 mmol, 1.66 g | Cl.NO
reactant | sodium bicarbonate | 35.1 mmol, 2.95 g | C([O-])(O)=O.[Na+]
reactant | octanenitrile | 15.97 mmol, 2.0 g | C(CCCCCCC)#N | C8H15N
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | isopropyl alcohol | 11 mL | C(C)(C)O | C3H8O
product | N-hydroxyoctanimidamide | ONC(CCCCCCC)=N | C8H18N2O
